tb_zout_psrr_noise.cir - E4 (Zout), PSRR, and E5 (output noise)
* Zout  : 1 A AC current injected at the jack, input grounded, load removed.
*         The 220k bleeder stays because the real circuit has it.
*         Measured AT THE JACK, i.e. what the cable and the cj EV250 see -
*         which is the quantity E4 constrains, not the raw emitter impedance.
* PSRR  : 1 V AC in series with each rail, separately. Reported as
*         20*log10(Vrail/Vout), so BIGGER IS BETTER.
* NOISE : output noise integrated 20 Hz - 20 kHz, unweighted (E5 < 10 uV).
*
* *** THE NOISE NUMBER IS A FLOOR, NOT A PREDICTION ***
* placeholder_devices.lib has KF = 0 on every device: there is NO 1/f noise
* in this simulation at all. The LSK489's real 1/f corner and the real
* mirror/VAS flicker noise are missing. Treat the result as "the thermal and
* shot noise alone are already this far below target", nothing more.

.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/placeholder_devices.lib
.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/gain_block_flat.inc

VPP VPLUS NPP DC 0 AC 0
VPRAIL NPP 0 DC 15
VMM VMINUS NMM DC 0 AC 0
VMRAIL NMM 0 DC -15

VSRC SRCN 0 DC 0 AC 1
RSRC SRCN IN 430

CSTRAY RG 0 15p
RRG    RG 0 1G

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k
IOUT   0 JACK DC 0 AC 0

.control
set units = degrees

echo "########## Zout at the jack, load removed, both gain modes ##########"
alter rload = 1G
alter @iout[acmag] = 1
foreach mode 1G 0.1
  alter rrg = $mode
  ac dec 20 20 100k
  let Z = mag(v(JACK))
  meas ac z20   find Z at=20
  meas ac z1k   find Z at=1000
  meas ac z20k  find Z at=20000
  let ZA = mag(v(OUT))
  meas ac za20  find ZA at=20
  meas ac za1k  find ZA at=1000
  meas ac za20k find ZA at=20000
  meas ac za100k find ZA at=100000
  echo "RRG=$mode"
  print z20 z1k z20k za20 za1k za20k za100k
  destroy all
end
alter @iout[acmag] = 0
alter rload = 100k

echo "########## PSRR (input source silenced) ##########"
alter @vsrc[acmag] = 0
alter @vpp[acmag] = 1
foreach mode 1G 0.1
  alter rrg = $mode
  ac dec 20 20 100k
  let P = -db(v(JACK))
  meas ac p100  find P at=100
  meas ac p1k   find P at=1000
  meas ac p10k  find P at=10000
  meas ac p100k find P at=100000
  echo "PSRR+ RRG=$mode (dB, bigger is better)"
  print p100 p1k p10k p100k
  destroy all
end
alter @vpp[acmag] = 0

echo "########## PSRR from V- ##########"
alter @vmm[acmag] = 1
foreach mode 1G 0.1
  alter rrg = $mode
  ac dec 20 20 100k
  let P = -db(v(JACK))
  meas ac p100  find P at=100
  meas ac p1k   find P at=1000
  meas ac p10k  find P at=10000
  meas ac p100k find P at=100000
  echo "PSRR- RRG=$mode (dB, bigger is better)"
  print p100 p1k p10k p100k
  destroy all
end
alter @vmm[acmag] = 0
alter @vsrc[acmag] = 1

echo "########## output noise 20 Hz - 20 kHz ##########"
foreach mode 1G 0.1
  alter rrg = $mode
  noise v(JACK) VSRC dec 50 20 20000 1
  setplot noise2
  echo "RRG=$mode  RSRC=430 (phono cathode follower)"
  print onoise_total inoise_total
  destroy all
end
* and with a dead-short source, to separate source-resistance noise
alter rsrc = 1
alter rrg = 1G
noise v(JACK) VSRC dec 50 20 20000 1
setplot noise2
echo "RRG=1G  RSRC=1 ohm (intrinsic)"
print onoise_total inoise_total
alter rsrc = 2500
alter rrg = 0.1
noise v(JACK) VSRC dec 50 20 20000 1
setplot noise2
echo "RRG=0.1  RSRC=2500 (attenuator at mid-rotation, +10 dB) - WORST CASE"
print onoise_total inoise_total
.endc

.end
